US04293557
211.8 mg of 3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propylamine was dissolved in 2 ml of dry pyridine, and the solution was stirred under ice cooling. A solution of 87 mg of propionyl chloride in 2 ml of dry tetrahydrofuran was added dropwise in small portions. After the addition, the reaction temperature was adjusted to room temperature, and the mixturwe was stirred for 2 hours. The solvent was distilled off, and 10 ml of water was added. Furthermore, 300 mg of potassium carbonate was added. The precipitated oily product was extracted with 30 ml of chloroform. The extract was dried over anhydrous potassium carbonate, and the solvent was distilled off. The residue was purified by TLC (developing solvent: chloroform/methanol=9/l) to afford 185 mg of N-[3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propyl] propionamide as an oil.

reactant | 3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propylamine | 211.8 mg | N1(CCCC1)C(C)C=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | propionyl chloride | 87 mg | C(CC)(=O)Cl | C3H5ClO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-[3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propyl] propionamide | 185 mg | N1(CCCC1)C(C)C=1C=C(OCCCNC(CC)=O)C=CC1 | C18H28N2O2
